US04587341
B. 2,4-diamino-5-(5,6,7-trimethoxy-2-naphthylmethyl)pyrimidine hydrochloride
The aldehyde from above was converted to 2-(5,6,7-trimethoxy-2-naphthylmethyl)-3-anilinoacrylonitrile on a 8 mmol scale in the same manner as Example 5-A. The crude product from this reaction was cyclised with guanidine hydrochloride and sodium methylate in ethanol as in Example 5-B to give the title compound as the free base, 0.74 g (27% yield). This was recrystallised from ethanol plus an equivalent of hydrochloric acid, 0.26 g, mp 252°-254°. Anal. Calcd. for C18H20N4O3HCl: C 57.37; H, 5.62; N, 14.87; Cl, 9.41. Found: C, 57.11; H, 5.67; N, 14.79; Cl, 9.31.

reactant | 2-(5,6,7-trimethoxy-2-naphthylmethyl)-3-anilinoacrylonitrile | COC1=C2C=CC(=CC2=CC(=C1OC)OC)CC(C#N)=CNC1=CC=CC=C1 | C23H22N2O3
reactant | guanidine hydrochloride | Cl.NC(=N)N
reactant | sodium methylate | C[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2,4-diamino-5-(5,6,7-trimethoxy-2-naphthylmethyl)pyrimidine hydrochloride | 27% yield | Cl.NC1=NC=C(C(=N1)N)CC1=CC2=CC(=C(C(=C2C=C1)OC)OC)OC | InChI=1S/C18H20N4O3.ClH/c1-23-14-8-11-6-10(7-12-9-21-18(20)22-17(12)19)4-5-13(11)15(24-2)16(14)25-3;/h4-6,8-9H,7H2,1-3H3,(H4,19,20,21,22);1H
